US07129238B2
To a stirred solution of (RS)-(4-cyano-2-nitro-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide in THF (5 ml) and ethanol (15 ml) was added palladium/C (250 mg). After 24 hrs stirring at rt under hydrogen atmosphere the mixture was filtered, and the filtrate was concentrated to leave a light yellow foam. The crude product was purified by flash chromatography (cyclohexane=>cyclohexane/EtOAc 1:1) to give (RS)-(2-amino-4-cyano-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide (4.45 g) as light yellow foam. MS 358.7 ([M+H]+)

reactant | (RS)-(4-cyano-2-nitro-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide | C(#N)C1=CC(=C(CC(C(=O)N)(C2=C(C=C(C=C2)OC)F)OCC)C=C1)[N+](=O)[O-] | C19H18FN3O5
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | (RS)-(2-amino-4-cyano-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide | 4.45 g | NC1=C(CC(C(=O)N)(C2=C(C=C(C=C2)OC)F)OCC)C=CC(=C1)C#N | C19H20FN3O3
